US03957769
G. 3,7-Dichloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide
A suspension of 2.92 g (0.01 mole) of 7-chloro-1-phenyl-1,2,4-benzothiadiazin-3(4H)-one-1-oxide in 25 ml of phosphorus oxychloride is treated with 0.5 ml of water and the mixture is heated under reflux for 45 minutes. The solution is then cooled and poured into 100 ml of a mixture of ice and water. The soluble oily material is taken up in chloroform, the chloroform solution dried, filtered, concentrated, and the residual material recrystallized from acetonitrile to give 0.85 g of colorless product, melting point 162°-164°C.

reactant | 7-chloro-1-phenyl-1,2,4-benzothiadiazin-3(4H)-one-1-oxide | 0.01 mole, 2.92 g | ClC1=CC2=C(NC(NS2(C2=CC=CC=C2)=O)=O)C=C1 | C13H11ClN2O2S
reactant | water | 0.5 ml | O | H2O
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,7-Dichloro-1-phenyl-1,2,4-benzothiadiazine-1-oxide | 0.85 g | ClC=1NS(C2=C(N1)C=CC(=C2)Cl)(C2=CC=CC=C2)=O | C13H10Cl2N2OS
